US04512999
A solution of 5.4 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 100 ml of benzene is treated at room temperature with 8.8 g of dimethylacetylmethylenetriphenylphosphorane. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (6:4). There is obtained methylene-(2S,5R)-3,3-dimethyl-6-(3-methyl-2-oxobutylidene)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate as a yellow oil [Rf: 0.35; cyclohexane/ethyl acetate (6:4); NMR (CDCl3), δ (ppm): 1.12 (6H); 1.25 (9H); 1.51 (3H); 1.6 (3H); 2.77 (2H); 4.6 (1H); 5.89 (2H); 6.05 (1H); 6.72 (1H)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 5.4 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | dimethylacetylmethylenetriphenylphosphorane | 8.8 g | CC(C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H23OP
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | methylene-(2S,5R)-3,3-dimethyl-6-(3-methyl-2-oxobutylidene)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.C=S1C([C@@H](N2C(C([C@@H]12)=CC(C(C)C)=O)=O)C(=O)O)(C)C | InChI=1S/C14H19NO4S.C5H10O2/c1-7(2)9(16)6-8-11(17)15-10(13(18)19)14(3,4)20(5)12(8)15;1-5(2,3)4(6)7/h6-7,10,12H,5H2,1-4H3,(H,18,19);1-3H3,(H,6,7)/t10-,12+,20?;/m0./s1
